US07112610B2
(S)-2-((R)-2-Methyl-hexyl)-succinic acid 4-tert-butyl ester.
To a solution of (3S,5R)-5-Methyl-3-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-nonanoic acid tert-butyl ester (2.65 g, 6.14 mmol) in 20 mL THF at 0° C. was added a precooled (0° C.) solution of LiOH monohydrate (1.0 g, 23.8 mmol) and hydrogen peroxide (30 wt % aqueous soln, 5.0 mL) in 10 mL H2O. The mixture was stirred vigorously for 90 minutes, then warmed to ambient temperature and stirred 90 minutes. The reaction was quenched at 0° C. by addition of 100 mL 10% NaHSO3 (aq), then extracted with Et2O. The phases were separated, and the organic phase washed with brine, dried (MgSO4), and concentrated. The titled compound was used without purification.

reactant | (3S,5R)-5-Methyl-3-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-nonanoic acid tert-butyl ester | 6.14 mmol, 2.65 g | C(C)(C)(C)OC(C[C@H](C[C@@H](CCCC)C)C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C25H37NO5
reactant | hydrogen peroxide | 5.0 mL | OO | H2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | (S)-2-((R)-2-Methyl-hexyl)-succinic acid 4-tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(=O)O)C[C@@H](CCCC)C)=O | C15H28O4
